US04567001
16-Methyleneandrosta-1,4,9(11)-triene-3,17-dione (IIIB)
Sodium methoxide in methanol (25%, 6.85 ml) is added dropwise to a mixture of androst-1,4,9(11)-triene-3,17-dione (IB, 7.05 g) in THF (80 ml) and methylene chloride (8 ml) containing dimethyloxalate (4.38 g) previously cooled to 4°. After one hour at 4°, the preparation of the 16-oxalate salt is complete and the following reagents were added sequentially: acetic acid (0.5 ml), triethylamine (2.6 ml), methanol (10 ml), and aqueous formaline (37%, 2.8 ml). The reaction mixture was warmed to 20°-25° and after one hour the reaction was complete. The reaction mixture was poured into water and extracted twice with ethyl acetate. The ethyl acetate extracts were combined, washed with water, dried over sodium sulfate, and concentrated under reduced pressure to a solid. The solid was dissolved in methylene chloride (2.5 ml), following which the methylene chloride was evaporated. The solid was again dissolved in dry THF (25 ml), following which the THF was evaporated. The solid was then dissolved in dry THF (50 ml) for use in the following reaction.

reactant | Sodium methoxide | C[O-].[Na+]
reactant | androst-1,4,9(11)-triene-3,17-dione | 7.05 g | C[C@@]12C(CC[C@H]1[C@@H]1CCC3=CC(C=C[C@]3(C)C1=CC2)=O)=O | C19H22O2
reactant | dimethyloxalate | 4.38 g | COC(C(=O)OC)=O | C4H6O4
reactant | formaline | 2.8 ml | C=O | CH2O
solvent | methanol | 6.85 ml | CO | CH4O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
solvent | water | O | H2O
solvent | triethylamine | 2.6 ml | C(C)N(CC)CC | C6H15N
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | 16-Methyleneandrosta-1,4,9(11)-triene-3,17-dione | C=C1C([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(C=C[C@]3(C)C1=CC2)=O)=O | C20H22O2
